US04939137
Methyl 4-aminothiophene-3-carboxylate was reacted with one equivalent of 5-bromopentylisocyanate in toluene at room temperature for 4 hours to produce N-(5-bromopentyl)-N'-(4-carbomethoxythien-3-yl]urea as a tan solid (98%). This material was recrystallized from CH2Cl2 /ether/hexane to afford the urea as a white solid, mp 92°-93.5° C.

reactant | Methyl 4-aminothiophene-3-carboxylate | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
reactant | 5-bromopentylisocyanate | one equivalent | BrCCCCCN=C=O | C6H10BrNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(5-bromopentyl)-N'-(4-carbomethoxythien-3-yl]urea | 98% | BrCCCCCNC(=O)NC1=CSC=C1C(=O)OC | C12H17BrN2O3S
